US07745438B2
(2S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-ethoxymorpholine-4-carboxylic acid tert-butyl ester
Add triethylamine (0.030 g, 0.30 mmol) and acetic anhydride (0.024 g, 0.23 mmol) to R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-ethoxymorpholine-4-carboxylic acid tert-butyl ester (0.095 g, 0.228 mmol) in tetrahydrofuran (4 mL) at room temperature. Stir 4 hours and dilute with ethyl acetate. Wash with water and saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 20:80 to 100:0 ethyl acetate:hexanes) to give the desired compound (69 mg, 66%).

reactant | triethylamine | 0.30 mmol, 0.030 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.23 mmol, 0.024 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-ethoxymorpholine-4-carboxylic acid tert-butyl ester | 0.228 mmol, 0.095 g | C(C)(C)(C)OC(=O)N1CC(OCC1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)OCC | C20H30F2N2O5
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-ethoxymorpholine-4-carboxylic acid tert-butyl ester | 69 mg, 66% | C(C)(C)(C)OC(=O)N1C[C@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)OCC | C22H32F2N2O6
